US04859229
using ethyl 3-amino-2,4,4,5,5,5-hexafluoro-2-pentenoate and 4-chloro-2-fluoro-5-isopropoxyphenyl isocyanate there is obtained 3-(4-chloro-2-fluoro-5-isopropoxyphenyl)-5 -fluoro-6-pentafluoroethyl-2,4(1H,3H)-pyrimidinedione, m.p. 160°-162° C.;

reactant | ethyl 3-amino-2,4,4,5,5,5-hexafluoro-2-pentenoate | NC(=C(C(=O)OCC)F)C(C(F)(F)F)(F)F | C7H7F6NO2
reactant | 4-chloro-2-fluoro-5-isopropoxyphenyl isocyanate | ClC1=CC(=C(C=C1OC(C)C)N=C=O)F | C10H9ClFNO2
product | 3-(4-chloro-2-fluoro-5-isopropoxyphenyl)-5 -fluoro-6-pentafluoroethyl-2,4(1H,3H)-pyrimidinedione | ClC1=CC(=C(C=C1OC(C)C)N1C(NC(=C(C1=O)F)C(C(F)(F)F)(F)F)=O)F | C15H10ClF7N2O3
